US07427631B2
4-(5-(4-Fluoro-phenyl)-pyridine-2-yl)-piperazine hydrochloride
4-(5-(4-Fluoro-phenyl)-pyridine-2-yl)-piperazine-1-carbaldehyde (98 mg, 0.34 mmol) was dissolved in MeOH (5 ml) and conc. HCl (12M, 5 ml) was added. The mixture was stirred at room temperature over night. The solvents were removed in vacuo and the remaining water was removed by azeotropic evaporation using EtOH/Toulene affording 102 mg (100%) of the title compound as a yellow powder.

reactant | 4-(5-(4-Fluoro-phenyl)-pyridine-2-yl)-piperazine-1-carbaldehyde | 0.34 mmol, 98 mg | FC1=CC=C(C=C1)C=1C=CC(=NC1)N1CCN(CC1)C=O | C16H16FN3O
reactant | HCl | 12M, 5 ml | Cl | ClH
solvent | MeOH | 5 ml | CO | CH4O
product | 4-(5-(4-Fluoro-phenyl)-pyridine-2-yl)-piperazine hydrochloride | 102 mg, 100% | Cl.FC1=CC=C(C=C1)C=1C=CC(=NC1)N1CCNCC1 | InChI=1S/C15H16FN3.ClH/c16-14-4-1-12(2-5-14)13-3-6-15(18-11-13)19-9-7-17-8-10-19;/h1-6,11,17H,7-10H2;1H
